US07919519B2
Methyl 1-((3-fluoro-4-(5-(pyrimidin-2-ylmethyl)benzofuran-2-yl)phenyl)methyl)azetidine-3-carboxylate
Synthesized according to Scheme B3 and general procedure G from 2-iodo-4-(pyrimidin-2-ylmethyl)phenol (0.230 g, 0.74 mmol) and methyl 1-(4-ethynyl-3-fluorobenzyl)azetidine-3-carboxylate (0.220 g, 0.89 mmol). MS (ESI) m/z: Calculated: 431.2; Observed: 432.5 (M++1).

reactant | 2-iodo-4-(pyrimidin-2-ylmethyl)phenol | 0.74 mmol, 0.230 g | IC1=C(C=CC(=C1)CC1=NC=CC=N1)O | C11H9IN2O
reactant | methyl 1-(4-ethynyl-3-fluorobenzyl)azetidine-3-carboxylate | 0.89 mmol, 0.220 g | C(#C)C1=C(C=C(CN2CC(C2)C(=O)OC)C=C1)F | C14H14FNO2
product | Methyl 1-((3-fluoro-4-(5-(pyrimidin-2-ylmethyl)benzofuran-2-yl)phenyl)methyl)azetidine-3-carboxylate | FC=1C=C(C=CC1C=1OC2=C(C1)C=C(C=C2)CC2=NC=CC=N2)CN2CC(C2)C(=O)OC | C25H22FN3O3
